US06747023B1
2-[4-[[4-(tert-Butoxycarbonyl)piperazin-1-yl]carbonyl]phenyl]pyridine N-oxide
At −10° C., metachloroperbenzoic acid (789 mg) was added to a solution of 1-tert-butoxycarbonyl-4-[4-(2-pyridyl)benzoyl]piperazine (517 mg) in dichloromethane (dichloromethane: 8 ml). The resulting mixture was stirred for 24 hours, followed by dilution with dichloromethane. A small amount of an aqueous sodium thiosulfate solution and a saturated aqueous NaCl solution were added to the dilute solution. The organic layer so separated was washed with a saturated aqueous solution of sodium bicarbonate and a saturated aqueous NaCl solution and then dried over anhydrous sodium sulfate. The residue obtained by distilling off the solvent under reduced pressure was purified by chromatography on a silica gel column (dichloromethane:methanol=20:1), whereby the title compound (415 mg, 77%) was obtained.

reactant | metachloroperbenzoic acid | 789 mg | ClC1=CC(=CC=C1)C(=O)OO | C7H5ClO3
reactant | 1-tert-butoxycarbonyl-4-[4-(2-pyridyl)benzoyl]piperazine | 517 mg | C(C)(C)(C)OC(=O)N1CCN(CC1)C(C1=CC=C(C=C1)C1=NC=CC=C1)=O | C21H25N3O3
reactant | sodium thiosulfate | S(=S)(=O)([O-])[O-].[Na+].[Na+]
reactant | NaCl | [Na+].[Cl-]
solvent | dichloromethane | 8 ml | ClCCl | CH2Cl2
product | 2-[4-[[4-(tert-Butoxycarbonyl)piperazin-1-yl]carbonyl]phenyl]pyridine N-oxide | C(C)(C)(C)OC(=O)N1CCN(CC1)C(=O)C1=CC=C(C=C1)C1=[N+](C=CC=C1)[O-] | C21H25N3O4
